US09216973B2
To a solution of 5-Formyl-2-methyl-2H-pyrazole-3-carboxylic acid methyl ester (210 mg) in ethanol (10 mL), was added aqueous NH2OH (50% in water, 0.10 mL). The solution was stirred at room temperature for 4 hours then was concentrated to give a white solid which was then dissolved in dimethylformamide (4 mL). To this solution was added N-chlorosuccinimide (180 mg). The solution was stirred at room temperature for 4 hours. This solution was slowly added to a solution of 1,3-Dichloro-5-(1-trifluoromethyl-vinyl)-benzene (750 mg) (prepared according to WO 2005/085216) in dimethylformamide (6 mL). When the addition was completed, triethylamine (0.2 mL) was added. The solution was stirred at room temperature for 4 hours then the reaction was then quenched by addition of water. After extraction with diethyl ether, the organic phase was separated, dried over magnesium sulfate and concentrated to give an orange oil. The residue was purified by chromatography over silica (heptane/diethyl ether; 1/0 to 7/3) to give 300 mg of 5-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-2H-pyrazole-3-carboxylic acid methyl ester as a white solid. 1H-NMR (CDCl3, 400 MHz): 7.48 (m, 2H), 7.39-7.38 (m, 1H), 7.23 (s, 1H), 4.17 (s, 3H), 4.14 (d, 1H), 3.89 (s, 3H), 3.75 (d, 1H).

reactant | 5-Formyl-2-methyl-2H-pyrazole-3-carboxylic acid methyl ester | 210 mg | COC(=O)C=1N(N=C(C1)C=O)C | C7H8N2O3
reactant | NH2OH | 0.10 mL | NO | H3NO
reactant | N-chlorosuccinimide | 180 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 1,3-Dichloro-5-(1-trifluoromethyl-vinyl)-benzene | 750 mg | ClC1=CC(=CC(=C1)C(=C)C(F)(F)F)Cl | C9H5Cl2F3
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
product | 5-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-2H-pyrazole-3-carboxylic acid methyl ester | 300 mg | COC(=O)C=1N(N=C(C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C | C16H12Cl2F3N3O3
